### PR TITLE
feat(SolidSphere): prove `solidSphere_inertiaTensor`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean [hunk 1]
```diff
@@ -67,11 +72,227 @@ lemma solidSphere_centerOfMass {d : ℕ} (m R : ℝ≥0) : (solidSphere d.succ m
...
+## Helper constructions for the inertia tensor
+
+-/
+
+section InertiaTensorHelpers
+
+variable {d : ℕ}
+
+/-- A single-coordinate negation on `Space d` — negates the k-th coordinate. -/
+noncomputable def Space.reflectCoord (k : Fin d) : Space d ≃ₗᵢ[ℝ] Space d where
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean]: I think these results should likely go in the `Space` directory rather then here, similar with the swapCoord below which should likely be phrased in terms of rotations.

**Comment by jstoobysmith** [comment]
BTW to get Aristotle to work did you have to go move PhysLean back to a previous Lean version?

File: PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean (hunk 1 above)
Comment (pitmonticone) [reply PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean]: I should have done it.

**Comment by pitmonticone** [comment]
> BTW to get Aristotle to work did you have to go move PhysLean back to a previous Lean version?

Addressed in call.

File: PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean [hunk 2]
```diff
@@ -67,11 +73,187 @@ lemma solidSphere_centerOfMass {d : ℕ} (m R : ℝ≥0) : (solidSphere d.succ m
...
+      rw [setIntegral_congr_fun measurableSet_closedBall (fun x _ => Space.norm_sq_eq x)]
+    rw [integral_finset_sum _ (fun i _ => (ContinuousOn.integrableOn_compact
+      (isCompact_closedBall (0 : Space 3) 1) (by fun_prop)).integrable)]
+    simp_rw [integral_coord_sq_closedBall_eq _ 0 1]
+    simp [Finset.sum_const, nsmul_eq_mul]
+  rw [vol_eq]; linarith [integral_norm_sq_eq, sum_eq]
+
+/-- Key integral identity: ∫_{B(0,R)} x_0^2 dx = vol(B(0,R)) * R^2 / 5 for Space 3.
+This is the fundamental second-moment integral for a uniform 3-dimensional ball. -/
+lemma integral_coord_sq_closedBall_value (R : ℝ≥0) (hr : R ≠ 0) :
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/RigidBody/SolidSphere.lean:213]: I think these are also better of in the `Space` directory, however this is related to #952, where some of these results could be included. We could include them directly in that PR, or wait
